US04460793
23.2 g (0.2 mol) of sodium phenolate and 16.5 g (0.1 mol) of 1,1-dichloro-3,3-dimethyl-1,4-pentadiene are heated to 180° C. in 100 ml of N-methylpyrrolidone, during the course of 10 hours. The working-up corresponding to Example A1(a) yields 20.5 g (92% of theory) of 1-chloro-3,3-dimethyl-2-phenoxy-1,4-pentadiene.

reactant | sodium phenolate | 0.2 mol, 23.2 g | C1(=CC=CC=C1)[O-].[Na+]
reactant | 1,1-dichloro-3,3-dimethyl-1,4-pentadiene | 0.1 mol, 16.5 g | ClC(=CC(C=C)(C)C)Cl | C7H10Cl2
solvent | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 1-chloro-3,3-dimethyl-2-phenoxy-1,4-pentadiene | 20.5 g, 92% | ClC=C(C(C=C)(C)C)OC1=CC=CC=C1 | C13H15ClO
